US08377957B2
4-Chloro-1-[(1R)-1-phenylethyl]-1H-imidazo[4,5-c]quinolin-2-ol (3.87 g, 11.9 mmol) and ammonia (65 mL of a 7 N solution in methanol) were added to a high-pressure vessel, which was sealed and heated in an oven at 135° C. overnight. The reaction mixture was concentrated under reduced pressure, and the residue was purified by automated flash chromatography (silica cartridge, eluting with aqueous ammonium hydroxide:methanol:dichloromethane in a gradient from 0:0:100 to 0.2:4.8:95). The chromatographed product was triturated sequentially with hot acetonitrile, hot isopropanol, and hot ethanol and washed with diethyl ether after each trituration and filtration. The filtrates were combined, concentrated under reduced pressure, washed with diethyl ether, and dried in a vacuum oven overnight to provide 214 mg of 4-amino-1-[(1R)-1-phenylethyl]-1H-imidazo[4,5-c]quinolin-2-ol as tan needles, mp greater than 250° C.

reactant | 4-Chloro-1-[(1R)-1-phenylethyl]-1H-imidazo[4,5-c]quinolin-2-ol | 11.9 mmol, 3.87 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2[C@H](C)C2=CC=CC=C2)O | C18H14ClN3O
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 4-amino-1-[(1R)-1-phenylethyl]-1H-imidazo[4,5-c]quinolin-2-ol | 214 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2[C@H](C)C2=CC=CC=C2)O | C18H16N4O
